US06521643B1
A suspension of 4-isopropyloxy-2-methylpyridine N-oxide (0.78 g) in 2-propanol (10 ml) was hydrogenated over Raney-nickel (50% suspension in water, 1 ml) under a hydrogen atmosphere for 48 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 4-isopropyloxy-2-methylpyridine (555 mg).

reactant | 4-isopropyloxy-2-methylpyridine N-oxide | 0.78 g | C(C)(C)OC1=CC(=[N+](C=C1)[O-])C | C9H13NO2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
catalyst | Raney-nickel | 1 ml | [Ni] | Ni
product | 4-isopropyloxy-2-methylpyridine | 555 mg | C(C)(C)OC1=CC(=NC=C1)C | C9H13NO
